US07011838B2
Using 0.39 g of 2-(4-methoxybenzyl)malononitrile, 5 ml of N,N-dimethylformamide, 0.12 g of sodium hydride (60% in oil), and 0.34 g of 1-bromo-3,3,3-trifluoropropane, and according to the process described in the Production Example 1, there was obtained 0.15 g of 2-(4-methoxybenzyl)-2-(3,3,3-trifluoropropyl)malononitrile (the present compound (89)).

reactant | 2-(4-methoxybenzyl)malononitrile | 0.39 g | COC1=CC=C(CC(C#N)C#N)C=C1 | C11H10N2O
reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | 1-bromo-3,3,3-trifluoropropane | 0.34 g | BrCCC(F)(F)F | C3H4BrF3
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(4-methoxybenzyl)-2-(3,3,3-trifluoropropyl)malononitrile | 0.15 g, Yield: 27% | COC1=CC=C(CC(C#N)(C#N)CCC(F)(F)F)C=C1 | C14H13F3N2O
